US07420001B2
To a solution of 0.25 g (1.01 mmol) of ethyl 3-methyl-4-hydroxy-5-ethylbenzofuran-2-carboxylate in 3.0 mL of DMF was added 0.417 g (3 eq) of potassium carbonate and 0.63 mL (10 eq) of iodomethane and the reaction was stirred at room temperature for 14 h. The reaction was then diluted with ether and water. The organic layer was washed with water, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was chromatographed on silica gel eluting with ethyl acetate/hexanes (1:10) to provide 0.24 g of ethyl 3-methyl -4-methoxy-5-ethylbenzofuran-2-carboxylate.

reactant | ethyl 3-methyl-4-hydroxy-5-ethylbenzofuran-2-carboxylate | 1.01 mmol, 0.25 g | CC1=C(OC2=C1C(=C(C=C2)CC)O)C(=O)OCC | C14H16O4
reactant | potassium carbonate | 0.417 g, 3 eq | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.63 mL, 10 eq | IC | CH3I
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | ethyl 3-methyl -4-methoxy-5-ethylbenzofuran-2-carboxylate | 0.24 g | CC1=C(OC2=C1C(=C(C=C2)CC)OC)C(=O)OCC | C15H18O4
